US05514680
6-Fluoro-1,4-dihydro-2,3-quinoxalinedione
The title compound (Sarges, R. et al., J. Med. Chem. 33:2240 (1990)) was prepared using an adaptation of the method of Cheeseman. (Cheeseman, G. W. H. J. Chem. Soc. 1171 (1962)). A mixture of diethyl oxalate (17.4 g, 0.100 mol) and 4-fluoro-1,2-diaminobenzene (1.00 g, 7.93 mmol) was heated to reflux with stirring under N2 for 2 h. The reaction was cooled to room temperature and the solid was collected by vacuum filtration and rinsed with EtOH (50 mL) to give a gray-brown solid which was further dried under vacuum (0.1 torr, 25° C.) to yield 1.06 g (74.4%) which was >98% pure by NMR. An analytically pure sample was prepared by dissolution of 60 mg of the solid in 1.0N NaOH and treatment of this solution with activated charcoal. Filtration of this mixture through a pad of Celite and acidification with 1N HCl gave fine white needles which were collected by vacuum filtration, rinsed with H2O and further dried under vacuum (0.1 torr, 25° C.) to give 25.5 mg of white needles, mp 375°-380° C. (dec) (lit. >300° C. (Sarges, R., et al., J. Med. Chem. 33:2240 (1990)). 1H NMR (d6 -DMSO) δ6.90 (m, 2H, ArH), 7.09 (dd, J=9, J=5.4), 11.9 (s, 1H, NH), 11.96 (s, 1H, NH). EIMS m/z180(100,M+), 152(44), 124(63), 97(43), 28(53). EIHRMS calc. for C8H5FN2N2O2 180.0334, found 180.0337.

reactant | diethyl oxalate | 0.100 mol, 17.4 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 4-fluoro-1,2-diaminobenzene | 7.93 mmol, 1.00 g | FC1=CC(=C(C=C1)N)N | C6H7FN2
reactant | charcoal | C | CH4
solvent | NaOH | 1.0N | [OH-].[Na+]
product | 6-Fluoro-1,4-dihydro-2,3-quinoxalinedione | FC=1C=C2NC(C(NC2=CC1)=O)=O | C8H5FN2O2
